US07964560B2
To a clear solution of (2S,4R)-1-benzyl 2-methyl 4-(biphenyl-4-yl)-4-hydroxypyrrolidine-1,2-dicarboxylate (2.59 g, 6 mmol) and 1-butanethiol (0.773 mL, 7.20 mmol) in acetonitrile (30 mL) was added Scandium(III) trifluoromethanesulfonate (0.295 g, 0.600 mmol) as solid by one portion at room temperature. The formed pink solution was stirred at this temperature for 26 h. TLC analysis showed starting material was completely consumed. Quenched with sat. ammonium chloride, extracted with EtOAc. Washed the organic with brine, dried over MgSO4, filtered, evaporated in vacuo. The residue was purified by BIOTAGE® column, eluted with gradient 5˜40% EtOAc-hexane to afford the mixture of diastereomers 2.54 g (84%). This oily mixture was purified by BIOTAGE® again, eluted with gradient 0˜20% EtOAc-toluene. The first peak collected from the column afforded by-product (2S,4S)-1-benzyl 2-methyl 4-(biphenyl-4-yl)-4-(butylthio)pyrrolidine-1,2-dicarboxylate (1.54 g, 2.60 mmol, 43.3% yield) as a wax. 1H NMR (500 MHz, CHLOROFORM-d) ppm 0.77 (t, J=7.17, 3H), 1.21-1.24 (m, 2H), 1.28-1.34 (m, 2H), 2.20-2.29 (m, 2H), 2.41-2.46 (m, 1H), 2.86 (dd, J=12.82, 7.32 Hz, 1H), 3.53, 3.75 (s, rotomer, 3H), 3.89 (dd, J=17.09, 11.29 Hz, 1H), 4.23-4.36 (m, 1H), 4.69-4.77 (m, 1H) 5.22-5.30 (m, 2H) 7.28-7.44 (m, 10H), 7.53-7.60 (m, 4H). LC-MS (retention time: 3.28 min, method B), MS m/z 504 (M+H).

reactant | (2S,4R)-1-benzyl 2-methyl 4-(biphenyl-4-yl)-4-hydroxypyrrolidine-1,2-dicarboxylate | 6 mmol, 2.59 g | C1(=CC=C(C=C1)[C@@]1(C[C@H](N(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC)O)C1=CC=CC=C1 | C26H25NO5
reactant | 1-butanethiol | 7.20 mmol, 0.773 mL | C(CCC)S | C4H10S
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
catalyst | Scandium(III) trifluoromethanesulfonate | 0.600 mmol, 0.295 g | FC(S(=O)(=O)[O-])(F)F.[Sc+3].FC(S(=O)(=O)[O-])(F)F.FC(S(=O)(=O)[O-])(F)F
product | (2S,4S)-1-benzyl 2-methyl 4-(biphenyl-4-yl)-4-(butylthio)pyrrolidine-1,2-dicarboxylate | 2.60 mmol, 1.54 g, 43.3% yield | C1(=CC=C(C=C1)[C@]1(C[C@H](N(C1)C(=O)OCC1=CC=CC=C1)C(=O)OC)SCCCC)C1=CC=CC=C1 | C30H33NO4S
